US04277379
(Preparation of the Potassium tetrabromophthalate salt paste)
A stainless steel kettle equipped with good agitation, heating and cooling was charged with 100 lbs. of water, 20 lbs. of polyethylene glycol (M.W. 200), 21/2 lbs. of triethanolamine, 421/2 lbs. of a non-ionic emulsifying agent (alkoxylated aryl polymer) and 40 lbs. of sorbitol. After mixing wascomplete, 10 lbs. of an anionic dispersing agent (the sodium salt of a formaldehyde-naphthalane sulfonic acid condensate) was added and the mixture stirred until all these additions were dissolved. With continued stirring, 500 lbs. of tetrabromophthalic anhydride were then added and mixed until uniformily dispersed. 1211/2 lbs. of 45 percent KOH were then added. The reaction was exothermic. The mix was then heated to about 90°-95° C. and stirring continued at 90°-95° C. until a smooth soft uniform paste was formed. The mix was then cooled to 75° C. and 1631/2 lbs. of a 2.6 percent Xanthan gum solution wasadded, the mix stirred until uniform and water added as necessary to make 1000 lbs. of paste. The resultant product was a smooth soft uniform paste of 65-66 percent solids, pH 2-3. A 5 percent aqueous dispersion of this product also had a pH of 2-3. One percent of the paste added to boiling water gave an almost clear solution with a pH of 2-3.

reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
reactant | sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | sodium | [Na] | Na
reactant | tetrabromophthalic anhydride | BrC=1C(=C(C(=C2C1C(=O)OC2=O)Br)Br)Br | C8Br4O3
reactant | KOH | [OH-].[K+]
solvent | water | O | H2O
product | Potassium tetrabromophthalate salt | BrC=1C(=C(C(=C(C1C(=O)[O-])C(=O)[O-])Br)Br)Br.[K+].[K+] | InChI=1S/C8H2Br4O4.2K/c9-3-1(7(13)14)2(8(15)16)4(10)6(12)5(3)11;;/h(H,13,14)(H,15,16);;/q;2*+1/p-2
